US09102621B2
Methyl 4-{[(5-chloro-6-isobutoxypyridin-3-yl)oxy]methyl}-2,5-difluorobenzoate
To 5-chloro-6-isobutoxy-pyridin-3-ol (Preparation 1, 364 mg, 1.8 mmol) in DMSO (15 mL) was added methyl 4-(bromomethyl)-2,5-difluorobenzoate (Preparation 3, 479 mg, 1.8 mmol) followed by potassium carbonate (500 mg, 3.6 mmol) and the resulting mixture stirred at room temperature for 18 hours under nitrogen. The mixture was poured onto water (20 mL) and extracted with ethyl acetate (3×40 mL). The combined extracts were washed with water (20 mL), dried over magnesium sulphate, filtered and the solvent removed under reduced pressure to give the title compound (623 mg, 89%) as a light brown oil.

reactant | 5-chloro-6-isobutoxy-pyridin-3-ol | 1.8 mmol, 364 mg | ClC=1C=C(C=NC1OCC(C)C)O | C9H12ClNO2
reactant | methyl 4-(bromomethyl)-2,5-difluorobenzoate | 1.8 mmol, 479 mg | BrCC1=CC(=C(C(=O)OC)C=C1F)F | C9H7BrF2O2
reactant | potassium carbonate | 3.6 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | Methyl 4-{[(5-chloro-6-isobutoxypyridin-3-yl)oxy]methyl}-2,5-difluorobenzoate | 623 mg, 89% | ClC=1C=C(C=NC1OCC(C)C)OCC1=CC(=C(C(=O)OC)C=C1F)F | C18H18ClF2NO4
